US04362550
N-Thiobenzoyl-L-valine, methyl ester
To 3.0 g. N-benzoyl-L-valine, methyl ester dissolved in 50 ml benzene was added 0.56 g. phosphorus pentasulfide in one portion at 20° C. The mixture was refluxed for about 4 hours, cooled to about 20° C. and filtered. The resulting oil which was collected was washed with methylene chloride and filtered. The combined filtrates were concentrated under vacuum to yield a yellow oil. Column chromatography with silica gel and a hexane-ethyl acetate solvent system gave 1.89 g. (59%) of a yellow oil.

reactant | N-benzoyl-L-valine, methyl ester | C(C1=CC=CC=C1)(=O)N[C@@H](C(C)C)C(=O)OC | C13H17NO3
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | N-Thiobenzoyl-L-valine, methyl ester | C(C1=CC=CC=C1)(=S)N[C@@H](C(C)C)C(=O)OC | C13H17NO2S
